US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(1H-indol-5-yl)-2-methylphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A microwaveable vial was charged with 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (100 mg, 0.247 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (60.0 mg, 0.247 mmol), PdCl2(dppf) (9.03 mg, 0.012 mmol), K2CO3 (85 mg, 0.617 mmol), 1,4-dioxane (3 mL) and water (1 mL). The reaction was purged with nitrogen, sealed and heated in a microwave reactor at 150° C. for 30 min (LCMS indicated complete conversion of starting material to desired product). The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO, filtered through a syringe filter and purified by reverse phase HPLC (Gilson, YMC-Pack ODS-A C18 5 μm 75×30 mm column, 10-90% MeCN/water+0.1% TFA, 3×1 mL injections). The appropriate fractions were concentrated to remove a majority of the MeCN, leaving an aqueous suspension of product. The precipitate was collected by filtration, rinsed with minimal water and dried to constant weight under vacuum to provide the title product (58 mg, 0.131 mmol, 53.2% yield) as a white solid. MS(ES)+ m/e 442.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.73 (d, J=4.04 Hz, 1H), 11.21 (br. s., 1H), 7.90 (s, 1H), 7.74 (br. s., 1H), 7.57-7.67 (m, 1H), 7.43-7.54 (m, 2H), 7.32-7.43 (m, 2H), 6.51 (d, J=2.27 Hz, 1H), 3.60-3.89 (m, 1H), 3.47-3.59 (m, 1H), 3.39-2.86 (m, 2H), 2.28-2.49 (m, 3H), 2.13-2.21 (m, 3H), 1.96 (d, J=9.35 Hz, 1H), 1.41-1.75 (m, 2H), 0.60-0.76 (m, 4H).

reactant | 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.247 mmol, 100 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H21BrN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.247 mmol, 60.0 mg | CC1(OB(OC1(C)C)C=1C=C2C=CNC2=CC1)C | C14H18BNO2
reactant | K2CO3 | 0.617 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.012 mmol, 9.03 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 mL | O | H2O
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(1H-indol-5-yl)-2-methylphenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.131 mmol, 58 mg, 53.2% yield | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C=1C=C2C=CNC2=CC1)C | C26H27N5O2
